US04797492
3-Methoxy-3-(trifluoromethyl)acrylonitrile
Diethylether (300 ml) was added to trifluoroacetoacetonitrile (13.7 g, 0.100 mole) and to this was added an ethereal solution of diazomethane, which was prepared from N-nitrosomethylurea (25.77 g, 0.250 mole), a 50% solution of potassium hydroxide (112.22 g, 1.00 mole) and diethylether (180 ml), with ice cooling. The solution was allowed to stand over night while cooling with ice. Next day, until the pH being 3-4 (by an universal test paper) acetic acid in limited amounts was added to the reaction mixture to decompose an excess of diazomethane and the solution was concentrated to about 200 ml at atmospheric pressure by using a distillation apparatus equipped with a fractionating column. The concentrate was washed with a 8% solution of sodium bicarbonate and water and dried with anhydrous sodium sulfate. Diethyl ether was distilled off by using a distillation apparatus equipped with a fractionating column at atmospheric pressure and the residue was distilled under reduced pressure to give the title compound (5.31 g, 35.1%) as a colorless liquid, b.p. 58.0° C./68 mmHg-64.0° C./70.0 mmHg. The structure of the product was confirmed by IR and NMR.

reactant | trifluoroacetoacetonitrile | 0.100 mole, 13.7 g | FC(C(CC#N)=O)(F)F | C4H2F3NO
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | N-nitrosomethylurea | 0.250 mole, 25.77 g | N(=O)CNC(=O)N | C2H5N3O2
reactant | potassium hydroxide | 1.00 mole, 112.22 g | [OH-].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethylether | 180 ml | C(C)OCC | C4H10O
solvent | Diethylether | 300 ml | C(C)OCC | C4H10O
product | 3-Methoxy-3-(trifluoromethyl)acrylonitrile | 5.31 g, 35.1% | COC(=CC#N)C(F)(F)F | C5H4F3NO
